US05977141
(b) 3-[4-(4-Phenyl-piperidin-1-yl)-benzenesulfonylamino]-propionic acid
A stirred mixture of 3-[4-fluoro-(benzenesulfonyl amino)]-propionic acid, sodium salt (0.248 g, 0.00100 mol), 4-phenyl-piperidine hydrochloride (0.218 g, 0.00110 mol), and sodium carbonate (0.317 g, 0.00299 mol) in dry dimethyl sulfoxide (3 mL) was heated in a sand bath (130° C.) under nitrogen for 22 hours. The mixture was cooled and partitioned between ethyl acetate and 1 M hydrochloric acid. The aqueous layer was extracted with additional ethyl acetate. The organics were combined, washed with saturated sodium chloride, dried (MgSO4), and rotary evaporated. The residue was dissolved in dichloromethane and chromatographed on silica gel (14 g, 230-400 mesh) eluting with dichloromethane-methanol (15:1, 10×15 mL). Fractions containing product were combined, rotary evaporated and rechromatographed to give the title compound as a peach-colored solid; yield 0.082 g (21%), mp=145-147° C.

reactant | 3-[4-fluoro-(benzenesulfonyl amino)]-propionic acid | FC1=CC=C(C=C1)S(=O)(=O)NCCC(=O)O | C9H10FNO4S
reactant | sodium | 0.00100 mol, 0.248 g | [Na] | Na
reactant | 4-phenyl-piperidine hydrochloride | 0.00110 mol, 0.218 g | Cl.C1(=CC=CC=C1)C1CCNCC1
reactant | sodium carbonate | 0.00299 mol, 0.317 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 3-[4-(4-Phenyl-piperidin-1-yl)-benzenesulfonylamino]-propionic acid | C1(=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NCCC(=O)O | C20H24N2O4S
